US04352811
3-{3-[4-(5-Methoxy-1,2-benzisoxazole-3-yl)piperidyl]propyl-2-methylindole hydrochloride
A mixture of 4.0 g of 2-methyl-3-(3-phenylsulfonylpropyl)indole, 3.0 g of 5-methoxy-3-(4-piperidyl)-1,2-benzisoxazole hydrochloride, 8.0 g of potassium carbonate and 70 ml of 2-butanone was heated under reflux, with stirring, and refluxed under nitrogen for 16 hours. The reaction mixture was poured into water and the aqueous suspension was extracted with ethyl acetate. The insoluble material was collected and washed with diluted sodium hydroxide to give a solid. The ethylacetate extract was washed with water, dried over anhydrous magnesium sulfate and the solvent was removed in vacuo to give an additional solid. Treatment of the combined solids with a saturated hydrogen chloride-toluene solution gave the salt. The salt was triturated with acetone and recrystallized from ethanol-ether to give an ethanolate, mp 163°-165° (foaming). Recrystallization of the alcoholate from acetonitrile and subsequent drying of the sample at 100° and ca 1 mm gave 1.60 g (33%) of product, mp 130°-132°.

reactant | 2-methyl-3-(3-phenylsulfonylpropyl)indole | 4.0 g | CC=1NC2=CC=CC=C2C1CCCS(=O)(=O)C1=CC=CC=C1 | C18H19NO2S
reactant | 5-methoxy-3-(4-piperidyl)-1,2-benzisoxazole hydrochloride | 3.0 g | Cl.COC=1C=CC2=C(C(=NO2)C2CCNCC2)C1
reactant | potassium carbonate | 8.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-butanone | 70 ml | CC(CC)=O | C4H8O
solvent | water | O | H2O
product | 3-[4-(5-Methoxy-1,2-benzisoxazole-3-yl)piperidyl]propyl-2-methylindole hydrochloride | Cl.COC=1C=CC2=C(C(=NO2)C2CCN(CC2)CCCC2=C(NC3=CC=CC=C23)C)C1 | InChI=1S/C25H29N3O2.ClH/c1-17-20(21-6-3-4-8-23(21)26-17)7-5-13-28-14-11-18(12-15-28)25-22-16-19(29-2)9-10-24(22)30-27-25;/h3-4,6,8-10,16,18,26H,5,7,11-15H2,1-2H3;1H
